US08431604B2
2.1 N-{[(4-phenyl-1,3-thiazole-2-yl)amino]carbonothioyl}benzamide
3.10 g 2-amino-4-phenylthiazole (176 mmol) and 3.00 g benzoylisothiocyanate were heated in 50 ml acetone for 2 hours at reflux, during which a yellow solid was formed. The reaction mixture was subsequently stirred for 30 minutes at 5° C., the solid was suction-isolated and washed multiple times with n-pentane. After drying, 4.20 g of the target structure was obtained as an amorphous yellow solid.

reactant | 2-amino-4-phenylthiazole | 176 mmol, 3.10 g | NC=1SC=C(N1)C1=CC=CC=C1 | C9H8N2S
reactant | benzoylisothiocyanate | 3.00 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | N-{[(4-phenyl-1,3-thiazole-2-yl)amino]carbonothioyl}benzamide | C1(=CC=CC=C1)C=1N=C(SC1)NC(=S)NC(C1=CC=CC=C1)=O | C17H13N3OS2
